US07473786B1
4-(1-acetyl-1H-indol-2-yl)benzonitrile (entry 2, Table 2):
The general procedure was used to convert 4-iodobenzonitrile and N-(2-ethynylphenyl)acetamide to the title product. Purification by flash chromatography gave the analytically pure product as a white solid, 36% yield. 1H NMR (300 MHz, DMSO) δ 8.16-8.13 (d, J=8.4, 1H), 7.95-7.92 (d, J=8.6, 2H), 7.76-7.73 (d, J=8.4, 2H), 7.67-7.65 (d, J=7.7, 1H), 7.42-7.36 (dt, J=7.3, 1.5, 1H), 7.33-7.28 (dt, J=7.7, 1.1, 1H) 6.94 (s, 1H), 2.28 (s, 3H). 13C NMR (75 MHz, DMSO) δ 171.42, 139.15, 139.09, 137.98, 133.23, 130.31, 129.57, 126.25, 124.40, 121.99, 119.54, 116.08, 113.63, 111.49, 28.56. Anal. Calcd. for C17H12N2O: C, 78.44; H, 4.65; N, 10.76. Found C, 78.19; H, 4.63; N, 10.68. m.p.: 158-160° C.

reactant | 4-iodobenzonitrile | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | N-(2-ethynylphenyl)acetamide | C(#C)C1=C(C=CC=C1)NC(C)=O | C10H9NO
product | 4-(1-acetyl-1H-indol-2-yl)benzonitrile | 36% yield | C(C)(=O)N1C(=CC2=CC=CC=C12)C1=CC=C(C#N)C=C1 | C17H12N2O
